US07601714B2
Methanesulfonic acid 2-chloro-3-dimethylamino-benzyl ester was placed in a round bottomed flask with DMF (8 mL). Sodium azide (0.35 g, 5.38 mmol) was added and the reaction was heated to 60° C. for 3 h. The reaction was cooled to rt, and the solvent was removed in vacuo. The residual crude material was purified by column chromatography using hexanes/ethyl acetate (1:1) as eluent to afford (3-azidomethyl-2-chloro-phenyl)-dimethyl-amine

reactant | Methanesulfonic acid 2-chloro-3-dimethylamino-benzyl ester | ClC1=C(COS(=O)(=O)C)C=CC=C1N(C)C | C10H14ClNO3S
reactant | Sodium azide | 5.38 mmol, 0.35 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (3-azidomethyl-2-chloro-phenyl)-dimethyl-amine | N(=[N+]=[N-])CC=1C(=C(C=CC1)N(C)C)Cl | C9H11ClN4
